US07241787B2
Trans-1-(4-cyclopentyloxyphenyl)-3-(4-hydroxycyclohexyl)-1,3-dihydroimidazol-2-one
Trans-4-aminocyclohexanol was reacted by method B with CDI and (4-cyclopentyloxyphenyl)(2,2-diethoxyethyl)amine. The isolated crude product was mixed with DMF (2 ml) and TFA (2 ml) and left to stand for 12 hours. The reaction solution was diluted with water, and the mixture was extracted with ethyl acetate. The organic phase was dried over magnesium sulfate, filtered and concentrated. The residue was purified by preparative HPLC. The product with the molecular weight of 342.44 (C20H26N2O3) was obtained in this way; MS (ESI): 343 ([M+H]+).

reactant | Trans-4-aminocyclohexanol | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (4-cyclopentyloxyphenyl)(2,2-diethoxyethyl)amine | C1(CCCC1)OC1=CC=C(C=C1)NCC(OCC)OCC | C17H27NO3
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Trans-1-(4-cyclopentyloxyphenyl)-3-(4-hydroxycyclohexyl)-1,3-dihydroimidazol-2-one | C1(CCCC1)OC1=CC=C(C=C1)N1C(N(C=C1)[C@@H]1CC[C@H](CC1)O)=O | C20H26N2O3
